US05167691
To a stirred solution of 15.7 grams (0.634 mole) of 2,3,5,6-tetrafluoro-4-trifluoromethylphenylhydrazine in 40 mL of anhydrous ethanol was added 10.7 grams (0.634 mole) of ethyl 2-cyano-3-ethoxyacrylate. The reaction mixture was heated at reflux for 21 hours, then cooled, and the solvent was removed by distillation under reduced pressure, leaving a residue. This residue was suspended in 80 mL of a 50:50 mixture of diethyl ether/n-pentane. A solid formed and was removed by filtration to yield 20.4 grams of ethyl 5-amino-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)pyrazol-4-ylcarboxylate, m.p. 166-168° C. The nmr spectrum was consistent with the proposed structure.

reactant | 2,3,5,6-tetrafluoro-4-trifluoromethylphenylhydrazine | 0.634 mole, 15.7 grams | FC1=C(C(=C(C(=C1F)C(F)(F)F)F)F)NN | C7H3F7N2
reactant | ethyl 2-cyano-3-ethoxyacrylate | 0.634 mole, 10.7 grams | C(#N)C(C(=O)OCC)=COCC | C8H11NO3
reactant | diethyl ether n-pentane | C(C)OCC.CCCCC
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | ethyl 5-amino-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)pyrazol-4-ylcarboxylate | 20.4 grams | NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)C(=O)OCC | C13H8F7N3O2
